US06995179B2
1) Synthesis of 5-(4-phenylbutyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine 3,5-dicarboxylate:
259 mg (0.718 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 0.122 ml (0.79 mmol) of 4-phenylbutyl alcohol, 193 mg (1.01 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 17.5 mg (0.144 mmol) of 4-dimethylaminopyridine were stirred together in 7.2 ml of dichloromethane at room temperature overnight. Water was added to the reaction liquid. After the extraction with chloroform, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.718 mmol, 259 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 4-phenylbutyl alcohol | 0.79 mmol, 0.122 ml | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.01 mmol, 193 mg | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.144 mmol, 17.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 7.2 ml | ClCCl | CH2Cl2
product | 5-(4-phenylbutyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine 3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCCCC1=CC=CC=C1)C)C)C(=O)OCCC#N | C28H29ClN2O4
